Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Penicillins
 
Attending: ___.
 
Chief Complaint:
No complains, finding od S. anginosus in blood. 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ yo M with h/o HIV (CD4 290 in ___, VL undetectable), 
cirrhosis (unclear etiology) c/b ascites, variceal bleed s/p 
TIPS c/b encephalopathy, HTN, HLD, GERD, ___ esophagus, 
AoS ___ echo per OSH report EF 65%, aortic valve area 0.7) 
admitted for positive blood cultures.  
.  
Pt had recent hospital admission from ___ through ___ 
for GI bleed, ___ to gastric ulcers, started on PPI and 
sucrulfate. Hospital course compicated with Strep anginosis 
bacteremia, thought ___ cirhosis and GI bleed, given vanco and 
ceftriaxone and transitioned to clinda. Pt also with chronic 
dyspnea attributed to severe AS, contemplating perc AVR.  
.  
Admitted for positive blood cultures from the liver clinic on 
recommendation from ID consult who decided based on previous S. 
anginosus sensitivity testing (___) that clyndamicin might 
not be enough and that ceftriaxone 2 mg iv should be 
adminestered. Overall feels good. His major complin is pain in 
the backl of his right knee area due to tendinitis diagnosed in 
the previous hospital stay. He puts heat pads on the area and 
doesn't take pain mediactions. Since he came home he didn't 
adhere to clyndamicin every 6 h protocol because it was too 
frequent for him. He denies any cough, weakness, nausea or 
vomiting. He sometimes becomes SOB, but not more than usual 
since he has significant AS.  

 
Past Medical History:
* Cirrhosis c/b ascites and variceal bleeding, no encephalopathy
-- cause not yet clearly established
-- h/o liver biopsy in ___ showing lobular hepatitis, CMV 
positive
-- EGD ___ OSH which revealed esophageal varices:
3 columns-2 grade III and 1 grade II esophageal varices with
stigmata of bleeding and were banded. Pt was also noted gastric
varices. Banded x2 at OSH.
* Hepatitis B, but HbSAb positive/HbCAb positive
* HIV (CD4 most recent CD4 290 in ___, VL <48 ___ on 
HAART, on dapsone ppx
* HTN
* Hyperlipidemia
* Anemia
* GERD
* Hemorrhoids
* Aortic stenosis - aortic valve area 0.7
 
Social History:
___
Family History:
unavailable as patient states he never knew his family well. 
 
Physical Exam:
PHYSICAL EXAMINATION on admission:  
VS: T 96, BP 107/45, HR 58, RR 18, SpO2 100%RA  
Gen: Elderly male in NAD. Oriented x3. Mood, affect appropriate. 
 
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. MMM, OP benign.  
Neck: Supple, full ROM. No JVP distention. No cervical 
lymphadenopathy. No carotid bruits noted.  
CV: RRR with normal S1, S2. Systolic murmur ___ heard at all 4 
spots. No R/G.  
Chest: Respiration unlabored, no accessory muscle use. CTAB 
without crackles, wheezes or rhonchi.  
Abd: Normal bowel sounds. Soft, NT, ND. No organomegaly or 
masses.  
Ext: No edema. Right politeal region tender and painful on 
palpation. Distal pulses intact radial 2+, DP 2+, ___ 2+.  
Skin: No rashes, ulcers, or other lesions.  
Neuro: CN II-XII grossly intact. Strength ___ in all 
extremities. No pronator drift. No cerebellar signs. Normal 
gait. Normal speech.  
.
PE at discharge:
VS: T 97.4, 124/61, HR 55, RR 18, 97%SpO2 100%RA  
Gen: Elderly male in NAD. Oriented x3. Mood, affect appropriate. 
 
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. MMM, OP benign.  
Neck: Supple, full ROM. No JVP distention. No cervical 
lymphadenopathy. No carotid bruits noted.  
CV: RRR with normal S1, S2. Systolic murmur ___ heard at all 4 
spots. No R/G.  
Chest: Respiration unlabored, no accessory muscle use. CTAB 
without crackles, wheezes or rhonchi.  
Abd: Normal bowel sounds. Soft, NT, ND. No organomegaly or 
masses.  
Ext: No edema. Right politeal region tender and painful on 
palpation. Distal pulses intact radial 2+, DP 2+, ___ 2+.  
Skin: No rashes, ulcers, or other lesions.  
Neuro: CN II-XII grossly intact. Strength ___ in all 
extremities. No pronator drift. No cerebellar signs. Normal 
gait. Normal speech.  

 
Pertinent Results:
Labs on admission:

___ 01:00PM BLOOD WBC-5.0 RBC-3.01* Hgb-8.3* Hct-25.4* 
MCV-85 MCH-27.6 MCHC-32.6 RDW-17.2* Plt ___
___ 01:00PM BLOOD Plt ___
___ 01:00PM BLOOD Glucose-87 UreaN-28* Creat-1.4* Na-135 
K-4.6 Cl-106 HCO3-20* AnGap-14
___ 01:00PM BLOOD ALT-11 AST-20 AlkPhos-123 TotBili-1.1
___ 01:00PM BLOOD Calcium-8.5 Phos-2.8 Mg-2.3
.
Labs on discharge: 

___ 06:30AM BLOOD WBC-5.0 RBC-3.17* Hgb-8.5* Hct-26.8* 
MCV-85 MCH-26.9* MCHC-31.8 RDW-17.1* Plt ___
___ 06:30AM BLOOD Plt ___
___ 06:30AM BLOOD Glucose-85 UreaN-24* Creat-1.3* Na-138 
K-4.6 Cl-106 HCO3-22 AnGap-15
___ 06:30AM BLOOD ALT-11 AST-18 AlkPhos-121 TotBili-0.9
___ 01:00PM BLOOD Calcium-8.5 Phos-2.8 Mg-2.3

Blood cultures: pending
 
Brief Hospital Course:
___ yo M with h/o HIV (CD4 172 in ___, VL undetectable ___, 
cirrhosis (unclear etiology) c/b ascites, variceal bleed s/p 
TIPS c/b encephalopathy, HTN, HLD, GERD, ___ esophagus, 
AoS ___ echo per OSH report EF 65%, aortic valve area 0.7) 
admitted for positive blood cultures. He was treated with 
clindamycin at home for 12 days for S. anginosus isolated from 
his BCx.  Upon reviewed of final cultures, patient was 
readmitted for PICC line placement and IV antibiotics.  HE was 
started on ceftriaxone 2 mg i.v.once a day. Blood cultures drawn 
prior to initiation of antibiotics were negative, patient was 
never symtpomatic or ill appearing during his stay. His son was 
educated how to administer ceftriaxone 2 mg iv via PICC line 
every day for the next ___ days. He was discharged home with ___.

TRANSITIONAL ISSUES: 
Patient should follow up with Dr. ___ with repeat blood 
cultures drawn upon completion of antibiotics to ensure 
resolution of bactermia.  
 
Medications on Admission:
HOME MEDICATIONS:  
1. darunavir 400 mg Two (2) Tablet PO DAILY (Daily).  
2. ritonavir 100 mg One (1) Capsule PO DAILY  
3. dapsone 25 mg Two (2) Tablet PO DAILY  
4. rifaximin 550 mg One (1) Tablet PO BID .  
5. lamivudine 150 mg One (1) Tablet PO DAILY  
6. pravastatin 10 mg One (1) Tablet PO DAILY  
7. polyethylene glycol 3350 17 gram/dose Powder One (1) PO DAILY 
 
8. lorazepam 0.5 mg One (1) Tablet PO at bedtime.  
9. pantoprazole 40 mg Tablet, Delayed Release (E.C.) PO Q12H  
10. sucralfate 1 gram Tablet One (1) Tablet PO QID  
11. losartan 50 mg One (1) Tablet PO DAILY.  
12. clindamycin HCl 300 mg One (1) Capsule PO Q6H (wasn't taking 
regularly).  

 
Discharge Medications:
1. ceftriaxone in dextrose,iso-os 2 gram/50 mL Piggyback Sig: 
Two (2) grams Intravenous every ___ hours for 13 
days.
Disp:*26 grams* Refills:*0*
2. sodium chloride 0.9 % 0.9 % Syringe Sig: Three (3) mL 
Injection three times a day: and as needed. .
Disp:*90 flushes* Refills:*0*
3. darunavir 400 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
4. ritonavir 100 mg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
5. dapsone 25 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  
6. rifaximin 550 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
7. lamivudine 150 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
8. pravastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
9. polyethylene glycol 3350 17 gram/dose Powder Sig: One (1) 
dose PO DAILY (Daily).  
10. lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO at bedtime as 
needed for insomnia.  
11. pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q12H (every 12 hours).  
12. sucralfate 1 gram Tablet Sig: One (1) Tablet PO QID (4 times 
a day).  
13. losartan 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

14. nadolol 20 mg Tablet Sig: half Tablet PO once a day.  
15. acetaminophen 500 mg Tablet Sig: One (1) Tablet PO Q6H 
(every 6 hours) as needed for pain, inflammation.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
bacteriemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure to care for you during your hospitalization.  
You were admitted for placement of PICC line and IV antibiotics. 
 This was done and you are to continue a 14 day course of 
antibiotics at home. 

During your hospitalization you were noted to have pain behind 
your knee likely related to tendonitis.  It is unlikely that you 
have a ___ cyst. Please follow up with your doctor if the 
pain continues.  

Medication Changes: 
START Ceftriaxone 2grams IV every 24 hours
NO other changes made to your medications.
 
Followup Instructions:
___